US06046212
Synthesis of methyl 3-acetyl-4-methoxybenzoate
3-Acetyl-4-hydroxybenzoic acid (3.60 g, 20 mmol) and methyl iodide (5.68 g, 40 mmol) were dissolved in 60 ml of DMF, followed by the addition of 11.06 g (80 mmol) of potassium carbonate. The resulting mixture was stirred at room temperature for 2 hours. The DMF was distilled off under reduced pressure, followed by the addition of water. The resulting mixture was extracted with chloroform. The organic layer was dried over MgSO4, the solvent was distilled off under reduced pressure, and the residue was recrystallized from acetone-hexane, whereby 1.42 g of the title compound were obtained as brown powder (yield: 34%).

reactant | 3-Acetyl-4-hydroxybenzoic acid | 20 mmol, 3.60 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1O | C9H8O4
reactant | methyl iodide | 40 mmol, 5.68 g | CI | CH3I
reactant | potassium carbonate | 80 mmol, 11.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
product | methyl 3-acetyl-4-methoxybenzoate | 1.42 g | C(C)(=O)C=1C=C(C(=O)OC)C=CC1OC | C11H12O4
